US08703795B2
a) 4-Bromo-3-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester
A suspension of 3-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester (100 mg, 0.33 mmol), example 31-f, N-bromosuccinimide (61.6 mg, 0.346 mmol), and benzoyl peroxide (8.0 mg, 0.033 mmol) in 0.83 mL of carbon tetrachloride was heated at reflux temperature for 5 hours. The reaction mixture was washed successively with saturated sodium bicarbonate, brine, saturated ammonium chloride solution, and brine. The organic solution was dried, filtered, and concentrated. The crude product was purified by flash chromatography eluting from silica gel with a gradient of 0-50% ethyl acetate in methylene chloride to produce 77.9 mg of a light yellow solid. MS: (−) m/z 380.3, 382.1 (M−1, 79Br/81Br).

reactant | 3-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester | 0.33 mmol, 100 mg | COC(=O)C1=C(C2=C(C=N1)C(=CS2)C2=CC=C(C=C2)F)O | C15H10FNO3S
reactant | N-bromosuccinimide | 0.346 mmol, 61.6 mg | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | benzoyl peroxide | 0.033 mmol, 8.0 mg | C(C1=CC=CC=C1)(=O)OOC(C1=CC=CC=C1)=O | C14H10O4
solvent | carbon tetrachloride | 0.83 mL | C(Cl)(Cl)(Cl)Cl | CCl4
product | 4-Bromo-3-(4-fluoro-phenyl)-7-hydroxy-thieno[3,2-c]pyridine-6-carboxylic acid methyl ester | 77.9 mg | COC(=O)C1=C(C2=C(C(=N1)Br)C(=CS2)C2=CC=C(C=C2)F)O | C15H9BrFNO3S
